US06747023B1
1-[[6-(Aminosulfonyl)-4,5,6,7,-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine
In methylene chloride (3 ml) was dissolved 1-[[6-(tert-butoxycarbonylaminosulfonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine (275 mg), followed by the addition of trifluoroacetic acid (3 ml). The resulting mixture was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure. A saturated solution of hydrochloride. in ethanol (3 ml) was added and the resulting mixture was stirred at room temperature for 1.5 hours. The residue obtained by distilling off the solvent under reduced pressure was added with methylene chloride and water to separate into layers. The water layer was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by preparative thin-layer chromatography (methanol:methylene chloride=1:9) using silica gel. The solid thus obtained was dissolved in a small amount of methylene chloride, followed by solidification by the addition of diethyl ether, whereby the title compound (50 mg) was obtained as a pale yellow solid.

reactant | 1-[[6-(tert-butoxycarbonylaminosulfonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | 275 mg | C(C)(C)(C)OC(=O)NS(=O)(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)CC(=O)N2CCOCC2 | C30H38ClN7O9S3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-[[6-(Aminosulfonyl)-4,5,6,7,-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | 50 mg | NS(=O)(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)CC(=O)N2CCOCC2 | C25H30ClN7O7S3
